US07132434B2
b) 4-(4-Trifluoromethyl-phenyl)-piperazine-1-sulfonic acid ((3R)-1-hydroxy-2,5-dioxo-pyrrolidin-3-yl)-amide
4-(4Trifluoromethyl-phenyl)-piperazine-1-sulfonic acid ((3R)-1-benzyloxy-2,5-dioxo-pyrrolidin-3-yl)-amid (76 mg; 0.15 mmol) was dissolved in EtOAc (5 ml)+MeOH (5 ml). A slurry of 10% Pd/C (35 mg) in MeOH (1 ml) was added under a stream of nitrogen. The mixture was hydrogenated at room temperature at 1 atm. pressure of H2 for 1 h. The reaction mixture was filtered through celite and the filtercake was washed with EtOAc and MeOH. Evaporation of solvent, the crude product was purified by flash chromatograohy through 10 g of Si-60-gel using a gradient of 100% Heptane to 100% (EtOAc+1% AcOH), gradient time=30 min, then isocratic system 100% (EtOAc+1% AcOH) for 15 min. flow=20 ml/min. The fractions containing the product was evaporated and the residue was trituated with Et2O and the resulting colourless solid was dried to give the title compound. Obtained 47 mg (74% yield) of the title compound.

reactant | 4-(4Trifluoromethyl-phenyl)-piperazine-1-sulfonic acid ((3R)-1-benzyloxy-2,5-dioxo-pyrrolidin-3-yl)-amid | 0.15 mmol, 76 mg | C(C1=CC=CC=C1)ON1C([C@@H](CC1=O)NS(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F)=O | C22H23F3N4O5S
solvent | EtOAc | 5 ml | CCOC(=O)C | C4H8O2
solvent | MeOH | 5 ml | CO | CH4O
solvent | MeOH | 1 ml | CO | CH4O
catalyst | Pd/C | 35 mg | [Pd] | Pd
product | 4-(4-Trifluoromethyl-phenyl)-piperazine-1-sulfonic acid ((3R)-1-hydroxy-2,5-dioxo-pyrrolidin-3-yl)-amide | ON1C([C@@H](CC1=O)NS(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F)=O | C15H17F3N4O5S
